US07304081B2
(1R)-1′-({1-[4-(1H-Indazol-1-yl)phenyl]cyclobutyl}carbonyl)-3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one
To a solution of 1′-{[1-(4-bromophenyl)cyclobutyl]carbonyl}-3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one (30 mg, 0.00007 mol), and 1H-benzimidazole (0.010 g, 0.000087 mol) in toluene (0.5 mL, 0.005 mol) and N,N-dimethylformamide (0.5 mL, 0.006 mol), were added (1S,2S)-N,N′-dimethylcyclohexane-1,2-diamine (2.1 mg, 0.000014 mol), copper(I) iodide (1 mg, 0.000007 mol), and potassium carbonate (21.1 mg, 0.000152 mol), and the mixture was stirred at 120° C. overnight. The reaction mixture was then filtered and the filtrate was dilluted with methanol. The product was purified using prep-HPLC followed by chiral HPLC. LC-MS: 465.2 (M+H)+.

reactant | 1′-{[1-(4-bromophenyl)cyclobutyl]carbonyl}-3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one | 0.00007 mol, 30 mg | BrC1=CC=C(C=C1)C1(CCC1)C(=O)N1CC2(CC1)OC(C=1C=NC=CC12)=O | C21H19BrN2O3
reactant | 1H-benzimidazole | 0.000087 mol, 0.010 g | N1C=NC2=C1C=CC=C2 | C7H6N2
reactant | toluene | 0.005 mol, 0.5 mL | C1(=CC=CC=C1)C | C7H8
reactant | N,N-dimethylformamide | 0.006 mol, 0.5 mL | CN(C=O)C | C3H7NO
reactant | (1S,2S)-N,N′-dimethylcyclohexane-1,2-diamine | 0.000014 mol, 2.1 mg | CN[C@@H]1[C@H](CCCC1)NC | C8H18N2
reactant | potassium carbonate | 0.000152 mol, 21.1 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | copper(I) iodide | 0.000007 mol, 1 mg | [Cu]I
product | (1R)-1′-({1-[4-(1H-Indazol-1-yl)phenyl]cyclobutyl}carbonyl)-3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one | N1(N=CC2=CC=CC=C12)C1=CC=C(C=C1)C1(CCC1)C(=O)N1C[C@]2(CC1)OC(C=1C=NC=CC12)=O | C28H24N4O3
